US07541478B2
Butyl(2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate
A mixture of 2-[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]-N-[4-fluoro-2-(trifluoromethyl)phenyl]acetamide (2.00 g), palladium acetate (0.0079 g) and tri-o-tolyl phosphine (0.0214 g) was placed in a reaction vessel, and nitrogen was passed through the reaction vessel for 10 minutes to replace the atmosphere of the reaction vessel with nitrogen. N,N-Dimethylformamide (10 ml), butyl acrylate (0.677 g) and sodium acetate (0.317 g) were added successively thereto, and the mixture was stirred at room temperature for about 20 minutes. Then, the mixture was stirred at 110° C. for 3 hours and cooled to room temperature. Ethyl acetate (20 ml) and water (20 ml) were poured to the reaction mixture and, after stirring, an organic layer was separated. The organic layer was washed successively with a mixture of 10% saline (18 ml) and conc. hydrochloric acid (2 ml), and 10% saline (20 ml). Activated charcoal (0.1 g) and tributyl phosphine (0.0712 g) were added to the organic layer, and the mixture was stirred at room temperature for 10 minutes. Then, the activated charcoal was removed by filtration and washed with ethyl acetate (4 ml). The combined filtrate and washings were concentrated to 6.0 g under reduced pressure, and n-heptane (12 ml) was added dropwise to the residue to precipitate crystals. After stirring at 5° C. for 1 hour, the crystals were collected by filtration and washed with cold ethyl acetate/n-heptane (1/3, 4 ml). A mixture of the resulting crystals (2.06 g) and acetone (10 ml) were heated to 50° C. to dissolve the mixture, activated charcoal (0.1 g) was added thereto, and the mixture was stirred for 10 minutes. The activated charcoal was removed by filtration, and washed with acetone (4 ml). Water (4.6 ml) was added dropwise to the combined filtrate and washings, and the mixture was stirred at 5° C. for 1 hour. Crystals were collected by filtration, and washed with cold acetone/water (2/1, 4 ml) to obtain the title compound (1.84 g, yield 84.9%).

reactant | 2-[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]-N-[4-fluoro-2-(trifluoromethyl)phenyl]acetamide | 2.00 g | BrC=1C=C(C=CC1)C1=C(C(OC2=CC(=C(C=C12)C)Cl)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F | C25H15BrClF4NO3
reactant | N,N-Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | butyl acrylate | 0.677 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | sodium acetate | 0.317 g | C(C)(=O)[O-].[Na+]
catalyst | palladium acetate | 0.0079 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolyl phosphine | 0.0214 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | water | 20 ml | O | H2O
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Butyl(2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate | 1.84 g, yield 84.9% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)OCCCC)C | C32H26ClF4NO5
